US04978753
In the manner given in Example 32, 1-carbopropoxy-9-chloro-7-(2,6-difluorophenyl)pyrimido[1,2-a][1,4]benzodiazepine-3(5H)-one was heated in pyridine with lithium iodide to give 9-chloro-7-(2,6-difluorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one.

reactant | 1-carbopropoxy-9-chloro-7-(2,6-difluorophenyl)pyrimido[1,2-a][1,4]benzodiazepine-3(5H)-one | C(=O)(OCCC)C1=CC(N=C2N1C1=C(C(=NC2)C2=C(C=CC=C2F)F)C=C(C=C1)Cl)=O | C22H16ClF2N3O3
reactant | lithium iodide | [I-].[Li+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 9-chloro-7-(2,6-difluorophenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | ClC=1C=CC2=C(C(=NCC=3N2C=CC(N3)=O)C3=C(C=CC=C3F)F)C1 | C18H10ClF2N3O
